US06277987B1
A solution of the title A compound, (2R)-(t-butyloxycarbonylamino)-4-morpholin-4-yl-4-oxobutyric acid benzyl ester (2.91 g, 7.42 mmol) in 50 mL of ethyl acetate is saturated with hydrogen chloride gas for 15 min. The reaction is sealed and stirred for 3 h at RT. The solvent is evaporated to afford 2.27 g (93%) of (2R)-amino-4-morpholin-4-yl-4-oxobutyric acid benzyl ester hydrochloride as a white solid.

reactant | (2R)-(t-butyloxycarbonylamino)-4-morpholin-4-yl-4-oxobutyric acid benzyl ester | 7.42 mmol, 2.91 g | C(C1=CC=CC=C1)OC([C@@H](CC(=O)N1CCOCC1)NC(=O)OC(C)(C)C)=O | C20H28N2O6
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (2R)-amino-4-morpholin-4-yl-4-oxobutyric acid benzyl ester hydrochloride | 2.27 g, 93% | Cl.C(C1=CC=CC=C1)OC([C@@H](CC(=O)N1CCOCC1)N)=O | InChI=1S/C15H20N2O4.ClH/c16-13(10-14(18)17-6-8-20-9-7-17)15(19)21-11-12-4-2-1-3-5-12;/h1-5,13H,6-11,16H2;1H/t13-;/m1./s1
